US05362879
A mixture of benzoin (45.19 g, 0.21 mol), pyroglutamic acid (25.00 g, 0.19 tool), DCC (47.91 g, 0.23 mol), DMAP (catalytic quantity) and CH2Cl2 (600 mL) was stirred at room temperature. After about 7 hours, the mixture was filtered, concentrated and diluted with AcOH (650 mL). NH4OAc (75.00 g, 0.97 mol) was added and the mixture heated at reflux for about 1.25 hours before being cooled, diluted with H2O and extracted with CH2Cl2. The combined extracts were washed with H2O (3 times), dried over Na2SO4 and concentrated in vacuo to give a yellow solid. Chromatography on a column of silica gel using a mixture of CHCl3 and MeOH (99:1) as eluent afforded 5-(4,5-diphenyl-2-oxazolyl) -2-pyrrolidinone (42.58 g, 72%). An analytical sample was recystallised from CH2Cl2 and hexanes and had mp 145-147° C. IR (KBr)1700 (NH.CO) cm-1 ; 1H NMR (DMSO-d6) δ2.15-2.60 (4H, m, CH2), 4.89 (1H, m, CHN), 7.10-7.70 (10H, m, aromatic H), 8.33 (1H, s, NH); MS m/z 305 (MH+).

reactant | benzoin | 0.21 mol, 45.19 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | pyroglutamic acid | 25.00 g | N1[C@@H](CCC1=O)C(=O)O | C5H7NO3
reactant | DCC | 0.23 mol, 47.91 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | H2O | O | H2O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | CO | CH4O
product | 5-(4,5-diphenyl-2-oxazolyl) -2-pyrrolidinone | 42.58 g, 72% | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1CCC(N1)=O | C19H16N2O2
